US07151111B2
A solution of 100 mg (0.3 mmol) of (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride [Example 2g)] in 0.3 ml of N,N-dimethylformamide is treated successively with 100 μl (0.6 mmol) of N-ethyl-diisopropylamine and 55 μl (0.6 mmol) of methyl fluoroacetate. The resulting beige suspension is heated to 50° C. for 18 hours. For the working-up, the reaction mixture is evaporated, thereafter, the residue is dissolved in dichloromethane and the solution washed with 1 ml of hydrochloric acid (1N). The organic layer is separated, dried over sodium sulfate, and evaporated. For purification, the crude product is chromatographed on silica gel using a 98:2-mixture of dichloromethane and methanol as the eluent. There are obtained 30 mg (28% of theory) of (S)-2-fluoro-N-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-acetamide as a white solid. MS: m/e=378 (M+NH4)+.

reactant | (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride | 0.3 mmol, 100 mg | Cl.N[C@H]1CC(N(C1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O
reactant | N-ethyl-diisopropylamine | 0.6 mmol, 100 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl fluoroacetate | 0.6 mmol, 55 μl | FCC(=O)OC | C3H5FO2
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | (S)-2-fluoro-N-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-acetamide | 30 mg, 28% | FCC(=O)N[C@@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F | C19H18F2N2O3
